US05399578
A mixture of 3.2 g (6.5 mmol) of N-(1-benzyloxycarbonylcyclopentyl)-N-(2'-cyanobiphenyl-4-ylmethyl)-N-pentanoyl-amine, 3.3 g (9.8 mmol) of tributyltin azide and 35 ml of o-xylene is heated to reflux for 24 hours. Working-up of the mixture in a manner analogous to that described in Example 23 yields the N-(1-benzyloxycarbonylcyclopentyl)-N-pentanoyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine in the form of a yellow oil [Rf : 0.37 (system S2)], which can be used for further reactions in crude form.

reactant | N-(1-benzyloxycarbonylcyclopentyl)-N-(2'-cyanobiphenyl-4-ylmethyl)-N-pentanoyl-amine | 6.5 mmol, 3.2 g | C(C1=CC=CC=C1)OC(=O)C1(CCCC1)N(C(CCCC)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C32H34N2O3
reactant | tributyltin azide | 9.8 mmol, 3.3 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
solvent | o-xylene | 35 ml | CC=1C=CC=CC1C | C8H10
product | N-(1-benzyloxycarbonylcyclopentyl)-N-pentanoyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine | C(C1=CC=CC=C1)OC(=O)C1(CCCC1)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(CCCC)=O | C32H35N5O3
